US06476053B1
1-((6,6-Dimethylbicyclo[3,1,1]hept-3-yl)methyl)-3-mehtyl-3-pyrroline-2,5-dione
A solution of citraconic anhydride (0.1 M) in pyridine (20 ml)was treated with (−)-cis-myrtanylamine (0.1 M). The reaction mixture was heated to 90° C. for six hours. The reaction mixture was then concentrated in vacuo and the residue was extracted into ethyl acetate. The ethyl acetate layer was washed with water and with cold aqueous hydrochloric acid, then dried over sodium sulphate and finally concentrated in vacuo. The residue obtained was chromatographed over silica gel to afford the desired product.

reactant | citraconic anhydride | 0.1 M | C1(\C(\C)=C/C(=O)O1)=O | C5H4O3
reactant | (−)-cis-myrtanylamine | 0.1 M | CC1([C@H]2CC[C@H]([C@@H]1C2)CN)C | C10H19N
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 1-((6,6-Dimethylbicyclo[3,1,1]hept-3-yl)methyl)-3-mehtyl-3-pyrroline-2,5-dione | CC1(C2CC(CC1C2)CN2C(C(=CC2=O)C)=O)C | C15H21NO2
